US04496736
225.5 g (1 mol) of N-t.-butyl-(2-chlorophenyl)-acetamide (melting point: 128°-130° C.) and 281 g of 15% strength NaOH (1.05 mols) are heated at 260° C., while stirring, for 3 hours in a 0.7 l nickel autoclave. The autoclave is cooled and the reaction mixture is run into a distillation apparatus. Distillation through a 30 cm column up to a head temperature of 100° C. gives 71.5 g of t.-butylamine of 97% purity, corresponding to a yield of 95% of the theoretical yield. 200 ml of water and 100 ml of 30% strength hydrochloric acid are added to the distillation bottom product. The acid which has been precipitated is filtered off with suction and dried in vacuo. 157.8 g of o-chlorophenylacetic acid of melting point 95° C. are obtained.

reactant | butyl-(2-chlorophenyl)-acetamide | C(CCC)C(C(=O)N)C1=C(C=CC=C1)Cl | C12H16ClNO
reactant | NaOH | 1.05 mols | [OH-].[Na+]
reactant | butylamine | C(CCC)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
catalyst | nickel | 0.7 l | [Ni] | Ni
solvent | water | 200 ml | O | H2O
product | o-chlorophenylacetic acid | 157.8 g, yield of 95% | ClC1=C(C=CC=C1)CC(=O)O | C8H7ClO2
